US04940710
1-Ethyl-6-fluoro-7-[3-(fluoromethyl)-1-piperazinyl]-1,4-dihydro-4-oxo-3-quinolinecarboxylic acid
A mixture of 400 mg of 2-(fluoromethyl)piperazine and 200 mg of 1-ethyl-6,7-difluoro-1,4-dihydro-4-oxo-3-quinolinecarboxylic acid in 3 ml of pyridine was stirred and heated at 75° C., under nitrogen, in a pressure bottle for 3 hours. The pyridine was removed and replaced with methanol. This mixture was chromatographed on silica gel, eluting with methanol:chloroform (2:8). The solid was recrystallized from methanol, giving 100 mg of the desired product, mp 177°-180° C.

reactant | 2-(fluoromethyl)piperazine | 400 mg | FCC1NCCNC1 | C5H11FN2
reactant | 1-ethyl-6,7-difluoro-1,4-dihydro-4-oxo-3-quinolinecarboxylic acid | 200 mg | C(C)N1C=C(C(C2=CC(=C(C=C12)F)F)=O)C(=O)O | C12H9F2NO3
solvent | pyridine | 3 ml | N1=CC=CC=C1 | C5H5N
product | 1-Ethyl-6-fluoro-7-[3-(fluoromethyl)-1-piperazinyl]-1,4-dihydro-4-oxo-3-quinolinecarboxylic acid | 100 mg | C(C)N1C=C(C(C2=CC(=C(C=C12)N1CC(NCC1)CF)F)=O)C(=O)O | C17H19F2N3O3
